US07504403B2
3-(2-Nitro-propenyl)-benzoic acid methyl ester:
To a 250 mL round bottom flask was added 3-formyl-benzoic acid methyl ester (2.20 g, 13.4 mmol), ammonium acetate (1.03 g, 13.4 mmol), and nitroethane (60 mL). Mixture heated to reflux under an atmosphere of nitrogen while stirring for 1.5 h. Solvent removed under vacuum then residue partitioned between ethyl acetate (100 mL) and 5% sodium bicarbonate. Organic washed with saturated sodium chloride, dried with magnesium sulfate, then concentrated to a oil under vacuum. Product purified on silica and isolated as a yellow solid. 1H NMR (CDCl3) s (3H, 2.47 ppm), s (3H, 3.96 ppmm), t (1H, 7.55 ppm), d (2H, 7.61 ppm) m (3H, 8.09 ppm).

reactant | 3-formyl-benzoic acid methyl ester | 13.4 mmol, 2.20 g | COC(C1=CC(=CC=C1)C=O)=O | C9H8O3
reactant | ammonium acetate | 13.4 mmol, 1.03 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 60 mL | [N+](=O)([O-])CC | C2H5NO2
product | 3-(2-Nitro-propenyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=C(C)[N+](=O)[O-])=O | C11H11NO4
